US07449475B2
(ii) 1-benzyl-4-(2-fluoro-5-methylbenzyl)piperidin-4-ol
To a solution of 2-bromo-1-fluoro-4-methylbenzene (0.76 g, 4 mmol) in THF (15 ml) at −70° C. under Ar a solution of n-BuLi (1.6 M in hexane, 2.5 ml, 4 mmol) was added dropwise. The reaction mixture was stirrred at −70° C. for 1 h, then BF3.Et2O (0.5 ml, 4 mmol) was added. After stirring for 20 min at −70° C., a solution of 6-benzyl-1-oxa-6-azaspiro[2.5]octane (0.41 g, 2 mmol) in dry THF (5 ml) was added dropwise. The stirring was continued for 2 h at −70° C., then the reaction mixture was quenched with sat. aq. NH4Cl (20 ml). The layers were separated, the aqueous layer extracted with THF. The combined organic layers were dried over Na2SO4. The solvent was removed in vacuo. Diethyl ether (50 ml) was added to the residue, folowed by a 2 M HCl in Et2O (5 ml). The precipitate was collected, washed with Et2O, and dissolved in minimal volume of methanol (ca. 5 ml). Water (50 ml) was added, and pH adjusted to 10 by addition of 2 M aq. NaOH. The mixture was extracted with ethyl acetate (2×25 ml), and the combined organic extracts were dried with Na2SO4. Evaporation of solvent afforded brownish oil.

reactant | 2-bromo-1-fluoro-4-methylbenzene | 4 mmol, 0.76 g | BrC1=C(C=CC(=C1)C)F | C7H6BrF
reactant | n-BuLi | 4 mmol, 1.6 M, 2.5 ml | [Li]CCCC
reactant | BF3.Et2O | 4 mmol, 0.5 ml | B(F)(F)F.CCOCC
reactant | 6-benzyl-1-oxa-6-azaspiro[2.5]octane | 2 mmol, 0.41 g | C(C1=CC=CC=C1)N1CCC2(CO2)CC1 | C13H17NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-benzyl-4-(2-fluoro-5-methylbenzyl)piperidin-4-ol | C(C1=CC=CC=C1)N1CCC(CC1)(O)CC1=C(C=CC(=C1)C)F | C20H24FNO
